US07758932B2
Synthesis of [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid diethylester
Under argon, 20 mL of triethyl phosphite was added to 6.1 g (5.8 mmol) of 2-(16-bromohexadecyl)-3,6,7,10,11-pentakishexyloxytriphenylene, and the mixture was stirred at 150° C. for 27 hours. Excess triethyl phosphite was evaporated from the mixture and the residue was purified by silica-gel column chromatography. As a result, 5.4 g of a white solid was obtained.

reactant | 2-(16-bromohexadecyl)-3,6,7,10,11-pentakishexyloxytriphenylene | 5.8 mmol, 6.1 g | BrCCCCCCCCCCCCCCCCC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C64H103BrO5
reactant | triethyl phosphite | 20 mL | P(OCC)(OCC)OCC | C6H15O3P
product | [16-(3,6,7,10,11-pentakishexyloxytriphenylene-2-yloxy)-hexadecyl]-phosphonic acid diethylester | 5.4 g | C(C)OP(OCC)(=O)CCCCCCCCCCCCCCCCOC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C68H113O9P
